US07560569B2
(2S,4S)-1-[[N-(4-Carboxybicyclo[2.2.2]oct-1-yl)amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile (50.0 mg), 1-hydroxybenzotriazole (28.0 mg), PS-carbodiimide (240 mg) and dichloromethane (4 mL) were mixed together and the mixture was stirred at room temperature for 15 minutes. 4-chlorobenzylamine (19.0 μL) was then added and the mixture was stirred at room temperature for further 24 hours. Subsequently, MP-carbonate (270 mg) was added and the mixture was stirred at room temperature for 5 hours and was left overnight. The insoluble material in the mixture was filtered and the filtrate was concentrated under reduced pressure. The resulting residue was then purified by a silica gel column (eluant:dichloromethane:methanol=10:1) to give (2S,4S)-1-[[N-[4-[N-(4-chlorophenylmethyl)amino]carbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile (29.1 mg).

reactant | (2S,4S)-1-[[N-(4-Carboxybicyclo[2.2.2]oct-1-yl)amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile | 50.0 mg | C(=O)(O)C12CCC(CC1)(CC2)NCC(=O)N2[C@@H](C[C@@H](C2)F)C#N | C16H22FN3O3
reactant | 1-hydroxybenzotriazole | 28.0 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | carbodiimide | 240 mg | N=C=N | CH2N2
reactant | 4-chlorobenzylamine | 19.0 μL | ClC1=CC=C(CN)C=C1 | C7H8ClN
reactant | carbonate | 270 mg | C([O-])([O-])=O
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | (2S,4S)-1-[[N-[4-[N-(4-chlorophenylmethyl)amino]carbonylbicyclo[2.2.2]oct-1-yl]amino]acetyl]-4-fluoropyrrolidine-2-carbonitrile | 29.1 mg | ClC1=CC=C(C=C1)CNC(=O)C12CCC(CC1)(CC2)NCC(=O)N2[C@@H](C[C@@H](C2)F)C#N | C23H28ClFN4O2
